US04539151
Preparation of N-benzyloxycarbonyl-S-(2-aminophenyl)cysteine
23 g of α-benzyloxycarbonylaminoacrylic acid and 30 g of 2-aminobenzenethiol were dissolved in 20 ml of ethanol, and the resulting mixture was stirred at room temperature for an hour. After the solvent was distilled off, ether was added to the residue so as to cause crystallization. The precipitated crystals were separated by filtration and washed with ether to obtain 17.8 g of the desired compound. Its melting point was 150°-151° C.

reactant | α-benzyloxycarbonylaminoacrylic acid | 23 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)=C | C11H11NO4
reactant | 2-aminobenzenethiol | 30 g | NC1=C(C=CC=C1)S | C6H7NS
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-benzyloxycarbonyl-S-(2-aminophenyl)cysteine | 17.8 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CSC1=C(C=CC=C1)N)C(=O)O | C17H18N2O4S
